US04377580
A mixture of 4,6-diaminoquinazoline hydrochloride (10 g) and tripropylamine (26.4 g) in dry pyridine (100 ml) was stirred in an ice-bath for 20 minutes. To the mixture was added dropwise during 1.5 hours 3-cyclopentylpropionyl chloride (12.2 g). The mixture was stirred in an ice-bath for 1.5 hours. Crushed ice was added to the reaction mixture. The mixture was stirred for 5 minutes and concentrated under reduced pressure. After addition of water, sodium hydrogen carbonate was added in small portions to the mixture to give precipitates which were separated by filtration, washed with water and dried. The crude crystals were dissolved in a mixture of chloroform and methanol under heating. After the filtration of insoluble materials, the filtrate was treated with activated charcoal and concentrated under reduced pressure to give a residue. The residue was suspended in ethyl acetate. The suspension was stirred for 1 hour under heating and filtered to give crystalline 4-amino-6-(3-cyclopentylpropionamido)quinazoline (7.2 g).

reactant | 4,6-diaminoquinazoline hydrochloride | 10 g | Cl.NC1=NC=NC2=CC=C(C=C12)N
reactant | tripropylamine | 26.4 g | C(CC)N(CCC)CCC | C9H21N
reactant | 3-cyclopentylpropionyl chloride | 12.2 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-amino-6-(3-cyclopentylpropionamido)quinazoline | 7.2 g | NC1=NC=NC2=CC=C(C=C12)NC(CCC1CCCC1)=O | C16H20N4O
